US04950793
Into a mixture of 6.6 ml of chlorosulfonic acid, 12.6 ml of antimony pentachloride and 10 ml of dichloroacetic acid, was added 8.9 ml of benzene at 25° C., and the mixture was stirred for 5 hours. The reaction mixture was transferred into ice water and the precipitated product was extracted with benzene. From the results of analysis, it was confirmed that benzene-sulfonyl chloride and diphenylsulfone were formed in yields of 60% and 30%, respectively, based on benzene.

reactant | chlorosulfonic acid | 6.6 ml | ClS(=O)(=O)O | ClHO3S
reactant | antimony pentachloride | 12.6 ml | [Sb](Cl)(Cl)(Cl)(Cl)Cl
reactant | dichloroacetic acid | 10 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | benzene-sulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | benzene | 8.9 ml | C1=CC=CC=C1 | C6H6
product | diphenylsulfone | C1(=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10O2S
